US07423031B2
To a solution of 2,3-dibromo-6,7-dihydro-1H,5H-pyrrolo[2,3-c]azepine-4,8-dione (32.2 mg, 0.10 mmol) in EtOH (5 mL) is added 2-hydrazinobenzoic acid (22.6 mg, 0.12 mmol) and HCl in i-PrOH (6N, 0.3 mL). The mixture is refluxed for 2 hours and then concentrated under reduced pressure. The residue is purified by HPLC (C18 column, eluted with CH3CN/H2O with 0.05% TFA) to give 2-[N′-(2,3-dibromo-8-oxo-5,6,7,8-tetrahydro-1H-pyrrolo[2,3-c]azepin-4-ylidene)-hydrazino]-benzoic acid; 1H NMR (DMSO-d6) δ 2.80-2.86 (m, 2H), 3.30-3.34 (m, 2H), 6.82 (t, 1H, J=8.0 Hz), 7.51 (d, 1H, J=7.2 Hz), 7.83-7.88 (m, 2H), 8.13 (t, 1H, J=6.0 Hz), 11.03 (s, 1H), 12.95 (s, 1H), 13.13 (s, 1H); m/z [M++1] 456.9.

reactant | 2,3-dibromo-6,7-dihydro-1H,5H-pyrrolo[2,3-c]azepine-4,8-dione | 0.10 mmol, 32.2 mg | BrC1=C(C2=C(C(NCCC2=O)=O)N1)Br | C8H6Br2N2O2
reactant | 2-hydrazinobenzoic acid | 0.12 mmol, 22.6 mg | N(N)C1=C(C(=O)O)C=CC=C1 | C7H8N2O2
reactant | HCl | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | i-PrOH | 6N, 0.3 mL | CC(C)O | C3H8O
product | 2-[N′-(2,3-dibromo-8-oxo-5,6,7,8-tetrahydro-1H-pyrrolo[2,3-c]azepin-4-ylidene)-hydrazino]-benzoic acid | BrC1=C(C2=C(C(NCCC2=NNC2=C(C(=O)O)C=CC=C2)=O)N1)Br | C15H12Br2N4O3
